US06300458B1
Preparation of 2,2-dimethyl-5,5-bis-(hydroxymethyl)-1,3-dioxane
Pentaerythritol (50 g, 0.36 mol) and p-toluenesulfonic acid monohydrate (0.61 g) were dissolved in 500 ml N,N-dimethylformamide (DMF, dried by molecular sieve at room temperature) at about 80° C., and then the mixture was allowed to cool undisturbed. When the solution cooled to about 40° C., stirring was started and 55.4 ml 2,2-dimethoxypropane (0.36 mol) was added. After 24 hours of stirring at room temperature, the solution was stirred at room temperature with 9.0 g of base treated DOWEX 1XZ-100 ion-exchange resin for 1 hour, filtered and then the solvent was evaporated under reduced pressure at 85° C. The base treated DOWEX 1XZ-100 ion exchange was prepared by washing 30 g. twice with 200 ml of deionized water, then washed with 300 ml of 4% aq. NaOH and then washed three times with 200 ml of water, filtered and then air-dried in a hood. After the treatment with this resin as noted above, the dry product was ground and extracted (Soxhlet), first with light petroleum ether (b.p. 40-60° C.) for 6 hours, then with diethyl ether for 12 hours, collected and dried. Yield: White crystals (40.0 g, 61.9%). M.P. 124.5°-125.5° C.; 11H-NMR (300 MHz, DMSO-d6) 1.28 ppm (s, 6H), 3.34 ppm (d, J=5.7 Hz, 4H), 3.58 ppm (s, 4H), 4.47 ppm (t, J=5.4 Hz, 2H);

reactant | Pentaerythritol | 0.36 mol, 50 g | OCC(CO)(CO)CO | C5H12O4
reactant | p-toluenesulfonic acid monohydrate | 0.61 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2,2-dimethoxypropane | 0.36 mol, 55.4 ml | COC(C)(C)OC | C5H12O2
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-5,5-bis-(hydroxymethyl)-1,3-dioxane | CC1(OCC(CO1)(CO)CO)C | C8H16O4
